US07326726B2
Step A: 2-(2,2,2-Trifluoroethoxy)phenyl bromide
A solution of 0.35 g (2 mmol) of 2-bromophenol, 0.63 g (3 mmol) of 2,2,2-trifluoroethyliodide, 0.55 g (4 mmol) of potassium carbonate in 2 Ml of DMF was reacted at 150° C. in a microwave system (Personal Chemistry, Smithcreator) for 30 min. After cooling to RT, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (5%, 10% successively EtOAc:hexanes) to give the title compound.

reactant | 2-bromophenol | 2 mmol, 0.35 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 2,2,2-trifluoroethyliodide | 3 mmol, 0.63 g | FC(CI)(F)F | C2H2F3I
reactant | potassium carbonate | 4 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,2,2-Trifluoroethoxy)phenyl bromide | FC(COC1=C(C=CC=C1)Br)(F)F | C8H6BrF3O
